datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])[H])C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])C.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[Cl-:21] 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]CC>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)C 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21]CC>>[H]C1C(O[C:20](N1C)([O-:10])[O:21]CC)CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C(C)=C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C([H])=C(C)\C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(CC)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C(C)C(C)=C1[H]>>[O-:10]C(C)/C(C)=C([C:20](C)=[O:21])/[H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O][H])[NH]C7=CC=CC=C7 21=20;20,10=10"
"[O-:10]C(CC)/C(C)=C(C)\C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)=C(C)C(CC)[O:10]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"[O-:10]C(C)C(O)C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[O:10]C(C)C(O)C1O 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].CC[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)C 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C(O)C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)C(O)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)[H])[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)[H])CCCCCC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C([H])C1[H]>>[NH:10]([H])C([H])C([H])C([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"[H][S:10]C([H])C(CC)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CC)[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)CC)[O-:10])[H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O][H].[Cl-]>>[Cl-].C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[O:21]=[C:20](OC1=CC=CC=C1)OC1=CC=CC=C1.[O-:10][H]>>[H][O:10][C:20]([O-:21])(OC1=CC=CC=C1)OC1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
